US06881733B1
(2-hydroxy-3-bromo-5,6-difluorophenyl)acetaldehyde
A solution of 7.8 gm (31.45 mMol) 2-allyl-3,4-difluoro-6-bromophenol in 100 mL dichloromethane and 20 mL methanol was cooled to −78° C. and was then saturated with ozone. After 20 minutes the reaction mixture was purged with nitrogen for 10 minutes and was then treated with 5 mL dimethylsulfide. The reaction mixture was allowed to warm gradually to room temperature. After 15 hours the reaction mixture was concentrated under reduced pressure to provide the title compound.

reactant | 2-allyl-3,4-difluoro-6-bromophenol | 31.45 mMol, 7.8 gm | C(C=C)C1=C(C(=CC(=C1F)F)Br)O | C9H7BrF2O
reactant | ozone | O=[O+][O-] | O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | (2-hydroxy-3-bromo-5,6-difluorophenyl)acetaldehyde | OC1=C(C(=C(C=C1Br)F)F)CC=O | C8H5BrF2O2
